Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea and Chest Tightness ___ Asthma Exacerbation
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ year old woman with pmhx asthma (last flare 
at ___ ___ years ago), presenting from ___ 
___ worsening SOB and dry cough since last ___. She has 
been using her albuterol metered dose inhaler more or less 
around-the-clock q2-3 hours. Prior to this exacerbation, she has 
not needed her albuterol for the last few years. She presented 
to her PCP where her peak flow remained at 160 L/min despite 
nebulized albuterol treatment (predicted 450 L/min). Her PCP 
gave her 60mg prednisone.

Patient has long history of asthma. Several hospitalizations as 
a child. She denies prior ICU admissions or intubations. No 
specific triggers, but pollen, cigarette smoke, dust, and cold 
weather seem to make her asthma worse.Patient does not smoke. No 
recent traumas. No hx of dvt/pe, no recent 
surgeries/hospitalizations/long periods of immobilization, no 
hemoptysis. She does endorse chills and chronic nasal 
congestion. She also endorses worsening bloody stools in the 
setting of constipation; patient attributes this to Vitamin D 
supplementation. 

In the ED, initial vitals were: 98.8 HR 88 BP 142/78 RR 20 98%
RA. Her exam was notable for: Lungs tight w scattered wheezes. 
Labs were notable for: WBC 7.9, proBNP <5, Urine w/18 WBCs, few 
bacteria, trace leuks. Studies were notable for: CXR with subtle 
opacity at the left lung base. The patient was given: 
Azithromycin/CTX, Duonebs x5, 1L LR, 1L
NS 

On arrival to the floor, she endorsed the above history. She 
states she feels much better, but the SOB is worsening as her 
last duoneb >1 hour ago. She can't think of anything that 
triggered her recent attack. She adds that she has thick 
carpeting that hasn't changed in years, and she got a cat since 
she's had since ___. She feels Advil causes chest tightness 
and exacerbates her asthma. 

 
Past Medical History:
Intermittent asthma without complication 
Chronic fatigue 
Vitamin D deficiency 
Iron deficiency anemia 

 
Social History:
___
Family History:
Extensive family history of asthma.
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: 98.3 BP 152/79 HR114  RR18  94%  Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Significant diffuse bilateral wheezes. No rhonchi or 
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs 
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
========================
VS:24 HR Data (last updated ___ @ 518)
    Temp: 97.9 (Tm 98.3), BP: 132/76 (132-152/76-79), HR: 99
(99-114), RR: 18, O2 sat: 95% (94-95), O2 delivery: ra  
GENERAL: Well appearing woman, sitting in bed with duoneb, in no 
acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. 
LUNGS: Significant diffuse bilateral wheezes. No rhonchi or 
rales. No increased work of breathing
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.
PSYCH: behavior and affect appropriate

 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 04:45PM BLOOD WBC-7.9 RBC-4.19 Hgb-12.7 Hct-38.7 MCV-92 
MCH-30.3 MCHC-32.8 RDW-13.1 RDWSD-43.8 Plt ___
___ 04:45PM BLOOD Neuts-86.5* Lymphs-10.0* Monos-2.0* 
Eos-0.9* Baso-0.3 Im ___ AbsNeut-6.82* AbsLymp-0.79* 
AbsMono-0.16* AbsEos-0.07 AbsBaso-0.02
___ 04:45PM BLOOD Glucose-99 UreaN-9 Creat-0.7 Na-140 K-4.3 
Cl-103 HCO3-23 AnGap-14

___ 04:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR*
___ 04:20PM URINE  RBC-1 WBC-18* BACTERIA-FEW* YEAST-NONE 
EPI-1

LABS ON DISCHARGE:
==================
___ 07:00AM BLOOD WBC-7.6 RBC-3.76* Hgb-11.2 Hct-34.9 
MCV-93 MCH-29.8 MCHC-32.1 RDW-13.2 RDWSD-44.8 Plt ___
___ 07:00AM BLOOD Glucose-90 UreaN-10 Creat-0.7 Na-140 
K-4.4 Cl-105 HCO3-21* AnGap-14
___ 07:00AM BLOOD Calcium-8.4 Phos-4.2 Mg-2.2

IMAGING:
========
CXR ___
FINDINGS:  
PA and lateral views of the chest provided.  Subtle opacity at 
the left lung base may represent an early pneumonia.  Elsewhere, 
lungs are clear.  No large effusion or pneumothorax.  
Cardiomediastinal silhouette is normal.  Imaged bony structures 
are intact. 
  
IMPRESSION:  
Subtle opacity at the left lung base may represent an early 
pneumonia. 

MICROBIOLOGY:
=============
Blood and urine cultures pending at discharge without growth to 
date

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
Ms. ___ is a ___ year old woman with a past medical history 
of intermittent asthma who presented to the ED from her PCP's 
office after receiving 60mg Prednisone for dyspnea and chest 
tightness concerning for an asthma exacerbation. Treated with 
duonebs in the ED without significant improvement in symptoms. 
Peak flow persistently < 50% predicted so patient admitted to 
medicine. CXR on admission concerning for possible pneumonia and 
she was started on CTX and Azithromycin. Prednisone was 
continued at a reduced dose of 40mg daily with plan to complete 
5 day burst for asthma exacerbation. Patient rapidly improved 
once admitted and was felt to be clinically ready for discharge 
morning after admission on ___. Ceftriaxone was discontinued at 
discharge, azithromycin monotherapy for pneumonia continued to 
complete 5 day course.

TRANSITIONAL ISSUES:
====================
-Follow Up Appointments: PCP
-___: Prednisone 40mg daily (___nd ___ and Azithromycin 250 mg Daily (End ___ need inhaled steroid if has another exacerbation 
-Reports several months of nasal congestion and postnasal drip. 
recommended OTC fluticasone nasal spray and cetirizine to 
patient, please follow up her symptoms. 

PROBLEM-BASED SUMMARY:
======================
ACUTE ISSUES:

#Severe Asthma Exacerbation:
Ms. ___ presented with a PEF <50% of predicted. Patient had 
already received prednisone 60mg and 2g magnesium sulfate IV at 
her PCP's office prior to arrival in ED. Given patient's 
worsening oxygen saturation despite duonebs x5, patient admitted 
to hospital. Patient had no cyanosis, depressed mental status, 
or inability to maintain respiratory effort. Patient was 
continued on Q2H nebs overnight after admission. The morning 
after admission, ___, patient was subjectively feeling much 
better. Her peak flow at the bedside was 300L/min in the morning 
and 350L/min in the afternoon. Given her impoving symptoms, Ms. 
___ was felt to be clinically ready for discharge. She will 
be continued on prednisone 40mg daily to complete a course of 5 
total days. Additionally, she is being sent with a replacement 
albuterol inhaler. She will follow up with her PCP in ___ week. 

#CAP:
Ms. ___ was found to have early signs of a community 
acquired pneumonia in the LLL on her ED CXR. Given the imaging 
findings and her subjective coughing and worsened congestions 
recently, she was started on azithromycin/CTX in the emergency 
room and transitioned to an azithromycin monotherapy 5 day 
course on discharge. She will complete this course of 
antibiotics on ___. 

CHRONIC ISSUES:

#Iron Deficiency Anemia:
Patient should continue home supplementation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H PRN

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
continue until ___  
2.  PredniSONE 40 mg PO DAILY Duration: 4 Days 
Continue until ___.  
3.  Albuterol Inhaler 1 PUFF IH Q6H Hasn't used inhaler in years 
prior to current flare  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Asthma exacerbation
Community-acquired pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
-You were admitted because you were having a severe asthma 
exacerbation

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-While you were in the hospital we continued frequent nebulizers 
to treat your asthma and help with your shortness of breath. We 
continued therapy with steroids which had been started at your 
PCPs office. You will complete a 5 day course of steroids for 
your asthma exacerbation. You were also found to have a 
pneumonia on chest X-Ray. We initially gave you antibiotics by 
mouth and through your IV to treat this. You improved quickly 
and it was felt that you would be safe to go home on only one 
antibiotic by mouth to treat your pneumonia

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
Please continue to the prednisone and azithromycin until 
___. You may use your albuterol inhaler as needed, and 
inform your PCP if  you require more rescue puffs than you do at 
baseline when you return home. Follow up with your doctors at 
your ___ appointments.  

For your allergies: 
- You can try Cetirizine (brand name is ___, but generic 
works fine) 10mg daily to see if your congestion improves. 
- You can also try Fluticasone (brand name is ___, but 
generic works fine) nasal spray for your congestion as well. 

We wish you all the best!

Sincerely,  
Your ___ Care Team
 
Followup Instructions:
___